US05464821
Synthesis of Ac-Gly-Gly-Val-NH2 (SEQ ID NO.8)
1.75 g (10 mmoles) Ac-Gly-Gly-OH and 1.73 g (15 mmoles) HONSu were dissolved in 25 ml acetonitrile and cooled to 0° C. 2.46 g DCC (12 mmoles) were then added, the mixture allowed to warm to room temperature and stirred for 2 hours until complete formation of the active ester. After filtering off the DCU, 1.16 g of Val-NH2 free base (10 mmoles) in 25 ml H2O at pH 8 were added slowly and pH maintained above 7. At completion of the reaction the acetonitrile was removed under vacuum and a small residue filtered off from the aqueous phase. The product was then purified by reverse phase HPLC using water/ethanol/acetic acid buffers.

reactant | Ac-Gly-Gly-OH | 10 mmoles, 1.75 g | N(CC(=O)NCC(=O)O)C(=O)C | C6H10N2O4
reactant | DCC | 12 mmoles, 2.46 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Val-NH2 | 10 mmoles, 1.16 g | N[C@@H](C(C)C)C(=O)N | C5H12N2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | H2O | 25 ml | O | H2O
product | Ac-Gly-Gly-Val-NH2 | N(CC(=O)NCC(=O)N[C@@H](C(C)C)C(=O)N)C(=O)C | C11H20N4O4
